US09084794B2
(−)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanamide
A solution of 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoic acid (0.152 mmol) in dichloromethane (1 mL) was treated with 4-(dimethylamino)pyridine (8.19 μmol), N,N′-diisopropylcarbodiimide (0.183 mmol), and ammonium bromide (0.229 mmol). The reaction mixture was sealed and was allowed to stir at room temperature overnight. Minimal conversion of starting material occurred, so additional 4-(dimethylamino)pyridine (8.19 μmol) was added and the reaction was stirred 3 hours at room temperature, at which point the mixture was diluted with acetonitrile (1 mL), and the reaction vessel was sealed and was stirred at 40° C. overnight. Minor conversion had occurred, so N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.183 mmol), 4-(dimethylamino)pyridine (0.457 mmol) and an additional portion of ammonium bromide (0.229 mmol) were added. The reaction mixture was sealed and allowed to stir at room temperature overnight. At this point the reaction was concentrated to dryness under a nitrogen stream. The crude material was purified by reverse phase HPLC (10-50% acetonitrile with 0.1% TFA/water with 0.1% TFA). The fractions containing the desired product were combined and the pH of the resulting mixture was adjusted to ˜10 with 30% w/v ammonium hydroxide solution. This was concentrated to a minimal volume in vacuo and was then extracted with dichloromethane three times. The combined organic layer was dried over sodium sulfate, filtered and concentration in vacuo to afford the racemate of the title compound. Resolution of the racemate using chiral HPLC (Chiralpak AS-H, 9:1 acetonitrile:methanol) followed by concentration in vacuo and lyophilization from water with 5% acetonitrile yielded the title compound as a white solid in >99% ee (23% yield). MS(ES)+ m/e 485.4 [M+H]+. αD=−20 deg (c=0.01, 9:1 acetonitrile:methanol).

reactant | 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoic acid | 0.152 mmol | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)O)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C29H31N3O4
reactant | N,N′-diisopropylcarbodiimide | 0.183 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | ammonium bromide | 0.229 mmol | [Br-].[NH4+]
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.183 mmol | Cl.CN(CCCN=C=NCC)C
reactant | ammonium bromide | 0.229 mmol | [Br-].[NH4+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 8.19 μmol | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-(dimethylamino)pyridine | 8.19 μmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.457 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | (−)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanamide | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)N)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C29H32N4O3
